US06653347B2
To a soultion of N-(4-cyano-2-methoxyphenyl)-sulfamic acid (1 mmol) in water (1 mL) at 0° will be added sodium carbonate (1.5 mmol). The reaction is concentrated and the crude material may be purified by recrystalization to give N-(4-cyano-2-methoxyphenyl)-sulfamic acid sodium salt.

reactant | N-(4-cyano-2-methoxyphenyl)-sulfamic acid | 1 mmol | C(#N)C1=CC(=C(C=C1)NS(O)(=O)=O)OC | C8H8N2O4S
reactant | sodium carbonate | 1.5 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1 mL | O | H2O
product | N-(4-cyano-2-methoxyphenyl)-sulfamic acid sodium salt | [Na+].C(#N)C1=CC(=C(C=C1)NS([O-])(=O)=O)OC | InChI=1S/C8H8N2O4S.Na/c1-14-8-4-6(5-9)2-3-7(8)10-15(11,12)13;/h2-4,10H,1H3,(H,11,12,13);/q;+1/p-1
